US06576626B2
(2S)-3-amino-2-fluoro-1-propanol (38.6 g, 0.41 mol) was dissolved in 25% aqueous dioxane (1.4 L), potassium carbonate (60.1 g, 0.43 mol) was added followed by di-tert-butyl dicarbonate (99.5 g, 0.46 mol). The mixture was stirred overnight. TLC analysis indicated complete consumption of starting material. The crude reaction mixture was concentrated to dryness, water (300 mL) was added followed by saturated aqueous potassium hydrogen sulfate (until pH=3 approx.). The organic material was extracted twice with methylene chloride, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford tert-butyl (2S)-2-fluoro-3-hydroxypropylcarbamate (79.5 g, 99%) as a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ4.82-5.04 (br s, 1H), 4.62-4.72 (m, 0.5H), 4.48-4.58 (m, 0.5H), 3.62-3.72 (m, 2H), 3.32-3.62 (m, 2H), 3.20-3.44 (br s, 1H), 1.48 (s, 9H).

reactant | (2S)-3-amino-2-fluoro-1-propanol | 0.41 mol, 38.6 g | NC[C@@H](CO)F | C3H8FNO
reactant | potassium carbonate | 0.43 mol, 60.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 0.46 mol, 99.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 1.4 L | O1CCOCC1 | C4H8O2
product | tert-butyl (2S)-2-fluoro-3-hydroxypropylcarbamate | 79.5 g, 99% | F[C@@H](CNC(OC(C)(C)C)=O)CO | C8H16FNO3
